US06204264B1
(1) N-(2-Nitrophenyl)-1-octadecanamine
Octadecylamine (11.858 g) was added to 2-chloronitrobenzene (3.151 g) and the mixture was stirred for 17.5 hours at 125° C. After n-hexane was added to the reaction mixture, solid materials were crushed well and removed out by filtration. The filtrate was concentrated and the residue (9.13 g) was purified by silica gel column chromatography (silica gel 90 g, n-hexane:ethyl acetate=50:1), thereby yielding the entitled compound (7.642 g) as yellow solid.

reactant | Octadecylamine | 11.858 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | 2-chloronitrobenzene | 3.151 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | n-hexane | CCCCCC | C6H14
product | N-(2-Nitrophenyl)-1-octadecanamine | 7.642 g | [N+](=O)([O-])C1=C(C=CC=C1)NCCCCCCCCCCCCCCCCCC | C24H42N2O2
